US05284971
3,5-Dibromo-4-(3-cyclopentyl-4-hydroxyphenylsulfonyl)phenylacetic acid
Sulfuryl chloride (0.5 mL) was added dropwise to a solution of methyl 3,5-dibromo-4-mercaptophenylacetate (Preparation E, 0.8 g) in 50 mL of dichloromethane for 1 hour. The sulfenyl chloride product was then added dropwise to an ice-cooled suspension of 2-cyclopentylphenol (0.44 g) and tin (IV) chloride (0.53 mL) in methanol. Following the procedures of Examples 1 and 3, the product methyl 3,5-dibromo-4-(3-cyclopentyl-4-hydroxyphenylsulfonyl)phenylacetate, MP: 171°-173.5° C., (0.7 g) was purified and converted to 3,5-dibromo-4-(3-cyclopentyl-4-hydroxyphenylsulfonyl)phenylacetic acid, MP: 196°-198° C.

reactant | Sulfuryl chloride | 0.5 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | methyl 3,5-dibromo-4-mercaptophenylacetate | 0.8 g | BrC=1C=C(C=C(C1S)Br)CC(=O)OC | C9H8Br2O2S
reactant | sulfenyl chloride | S(Cl)Cl | Cl2S
reactant | 2-cyclopentylphenol | 0.44 g | C1(CCCC1)C1=C(C=CC=C1)O | C11H14O
reactant | tin (IV) chloride | 0.53 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 3,5-Dibromo-4-(3-cyclopentyl-4-hydroxyphenylsulfonyl)phenylacetic acid | BrC=1C=C(C=C(C1S(=O)(=O)C1=CC(=C(C=C1)O)C1CCCC1)Br)CC(=O)O | C19H18Br2O5S
